US05559134
9c) 6-(Diphenyl-tert-butylsilyloxymethyl)-2-pyridinecarboxylic acid methyl ester
A solution of 8.15 g of iodine in 148 ml of methanol is instilled in a solution of 18.29 g of 6-(diphenyl-tert-butylsilyloxymethyl)-2-pyridinecarbaldehyde and 7.22 g of potassium hydroxidelin 593 ml of methanol at 0° C. under nitrogen. After 1 hour of stirring, iodine solution was again.added and subsequently stirred, and this was also repeated until a complete reaction was discernible in the thin layer. The reaction mixture is concentrated by evaporation in a vacuum up to about 60 ml, mixed with 100 ml of semiconcentrated sodium chloride solution and extracted four times with ether. The combined organic phases are washed once with 60 ml of saturated sodium thiosulfate solution, semiconcentrated sodium. chloride solution, dried on sodium sulfate and after filtration, concentrated by evaporation in a vacuum. 19.4 g of the title compound is obtained, which is further used without further purification.

reactant | iodine | 8.15 g | II | I2
reactant | 6-(diphenyl-tert-butylsilyloxymethyl)-2-pyridinecarbaldehyde | 18.29 g | C1(=CC=CC=C1)C(C1=CC=CC(=N1)C=O)(O[SiH2]C(C)(C)C)C1=CC=CC=C1 | C23H25NO2Si
reactant | potassium | 593 ml, 7.22 g | [K] | K
reactant | methanol | 148 ml | CO | CH4O
product | 6-(Diphenyl-tert-butylsilyloxymethyl)-2-pyridinecarboxylic acid methyl ester | 19.4 g | COC(=O)C1=NC(=CC=C1)C(O[SiH2]C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H27NO3Si
